US04138488
5-[Bis-(4-Chlorophenyl)-Methyl]-Picolinic Acid Piperazine Salt
Combine 19.8 g. (0.055 mole) of 5-[bis-(4-chlorophenyl) methyl]-picolinic acid with 4.7 g. of piperazine in hot methanol. Add 5 volumes of ether and collect the precipitate by filtration. Recrystallize the precipitate from ethanol to obtain thereby the product of this example, m.p. 240°-255° C.

reactant | 5-[bis-(4-chlorophenyl) methyl]-picolinic acid | 0.055 mole | ClC1=CC=C(C=C1)C(C=1C=CC(=NC1)C(=O)O)C1=CC=C(C=C1)Cl | C19H13Cl2NO2
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | ether | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | 5-[Bis-(4-Chlorophenyl)-Methyl]-Picolinic Acid Piperazine Salt | N1CCNCC1.ClC1=CC=C(C=C1)C(C=1C=CC(=NC1)C(=O)O)C1=CC=C(C=C1)Cl | InChI=1S/C19H13Cl2NO2.C4H10N2/c20-15-6-1-12(2-7-15)18(13-3-8-16(21)9-4-13)14-5-10-17(19(23)24)22-11-14;1-2-6-4-3-5-1/h1-11,18H,(H,23,24);5-6H,1-4H2
